* source AMPLIFIERHPF
R_R2         N14881 GND  50k TC=0,0 
V_V1         N14927 GND 5Vdc
R_R5         GND N15073  47k TC=0,0 
C_C1         VO N15159  100n  TC=0,0 
R_R9         N15167 VAS  10k TC=0,0 
R_R7         N15159 VO  50k TC=0,0 
V_V10         N15443 GND 15Vdc
X_U3B         N15013 N15159 N14923 N15211 VO LM358
R_R6         GND N15159  10k TC=0,0 
R_R1         N14927 N14881  100k TC=0,0 
V_V4         N14877 GND 15Vdc
V_V2         N15297 GND 5Vdc
X_U4A         GND N15167 N15443 N15127 VAS LM358
X_U2B         N14881 N15073 N14877 N15107 N15013 LM358
C_C2         GND N14881  100n  TC=0,0 
V_V8         N15211 GND -15Vdc
V_V9         N15127 GND -15Vdc
R_R8         N15297 N15167  10k TC=0,0 
R_R4         N15073 N15013  100k TC=0,0 
V_V3         N15107 GND -15Vdc
R_R3         VAS N14881  200k TC=0,0 
V_V7         N14923 GND 15Vdc
