* source LEVELSHIFTER
X_U2B         N02288 N02380 N02284 N02424 VO LM358
V_V6         N02346 GND 5Vdc
R_R2         N02288 GND  50k TC=0,0 
R_R3         N024000 N02288  200k TC=0,0 
V_V3         N02424 GND -15Vdc
R_R1         N02346 N02288  100k TC=0,0 
R_R5         GND N02380  47k TC=0,0 
R_R4         N02380 VO  100k TC=0,0 
V_V2         N024000 GND -5Vdc
V_V4         N02284 GND 15Vdc
