* source SMU
X_U1A         N00467 N00431 N00461 N00455 VO LM358
V_V4         N00467 0 1.26Vdc
V_V2         N00461 0 5Vdc
V_V1         N00424 0 -15Vdc
V_V5         N00455 0 -15Vdc
R_R1         N00431 VO  10k TC=0,0 
R_R2         N00424 N00431  100k TC=0,0 
